US07399867B2
N-tert-Butyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide
Place 4-bromo-N-tert-butyl-benzenesulfonamide (2.00 g, 6.84 mmol), bis(pinacolato)diboron (2.09 g, 8.21 mmol), PdCl2(dppf)2−CH2Cl2 (175 mg, 0.24 mmol), potassium acetate (2.02 g, 20.5 mmol) and anhydrous dimethyl sulfoxide (25 mL) in a round bottom flask. Put the reaction in an oil bath and stir it at 90° C. for 7.5 hours. Cool the purple colored reaction to ambient temperature, quench with ample water and extract the resulting aqueous mixture into dichloromethane. Wash the combined extracts with water and brine; then dry (sodium sulfate) and evaporate them in vacuo. Purify the resulting dark solid on a flash column (silica gel; 0%-5% gradient of EtOAc in CH2Cl2) to provide 2.00 g of the title compound (86%).

reactant | 4-bromo-N-tert-butyl-benzenesulfonamide | 6.84 mmol, 2.00 g | BrC1=CC=C(C=C1)S(=O)(=O)NC(C)(C)C | C10H14BrNO2S
reactant | bis(pinacolato)diboron | 8.21 mmol, 2.09 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 20.5 mmol, 2.02 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf)2 CH2Cl2 | 0.24 mmol, 175 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
product | N-tert-Butyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide | 2.00 g, 86% | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BNO4S
